US06414153B1
A mixture of 5 g (43.7 mmol) of indole, 19.2 g (85.3 mmol) of 1-bromo-3,5-dichlorobenzene, 11.7 g (84.8 mmol) of potassium carbonate and 3.28 g (1.22 mmol) of copper powder in 14 mL of 1,2-dichlorobenzene was warmed at reflux. After 24 h, the mixture was cooled and diluted with dichloromethane and filtered through diatomaceous earth. The filter cake was washed with a 1:9 mixture of methanol-dichloromethane. The filtrate was pre-adsorbed onto silica gel and chromatographed on silica gel eluting with hexane. The partially purified material was placed under high vacuum to remove excess 1,2-dichlorobenzene and sublime excess 1-bromo-3,5-dichlorobenzene. A second chromatography on silica gel eluting with hexanes afforded 7.8 g (70%) of 1-(3,5-Dichlorophenyl)-1H-indole.

reactant | indole | 43.7 mmol, 5 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-bromo-3,5-dichlorobenzene | 85.3 mmol, 19.2 g | BrC1=CC(=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | potassium carbonate | 84.8 mmol, 11.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichlorobenzene | 14 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | 1.22 mmol, 3.28 g | [Cu] | Cu
product | 1-(3,5-Dichlorophenyl)-1H-indole | 7.8 g, 70% | ClC=1C=C(C=C(C1)Cl)N1C=CC2=CC=CC=C12 | C14H9Cl2N
